* C:\Users\rochi\Google Drive\Materias\Teoría de circuitos\TPs\TP1\TC_TP1\ej 1\simulacion.asc
R1 N002 N001 360
R2 N003 N002 360
R3 N004 0 180
C3 N002 0 82n
C2 N003 N004 41n
C1 N004 N001 41n
V1 N001 0 SINE(0 1 200) AC 1
.ac dec   100 1 10Meg
.backanno
.end
